US05807857
5. Ethyl-3-(5-(1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)prop-2-enoate
A solution of ethyl-3-[1-tert-butyloxycarbonyl-5-(1,2,4-triazol-1-yl)pyrrolo[2,3-c]pyridin-3-yl]prop-2-enoate (1.73 g, 4.5 mmol) and trifluoroacetic acid (5 mL) in dry DCM (20 mL) was stirred at ambient temperature under nitrogen for 5 hours. The solvent was evaporated in vacuo and the residue azeotroped with toluene. The residue was chromatographed on silica eluting with 20% EtOAc in DCM followed by a gradient of 5 to 10% MeOH in DCM to give a colourless solid. This was triturated with ether to give the title compound (1.05 g, 82%) as a colourless solid. mp 235°-238° C. 1H NMR (360 MHz, d6 -DMSO) δ 1.29 (3H, t, J=7.1Hz), 4.20 (2H, q, J=7.1Hz), 6.44 (1H, d, J=16.0Hz), 7.92 (1H, d, J=16.1Hz), 8.22 (1H, s), 8.27 (1H, s), 8.33 (1H, d, J=2.7Hz), 8.76 (1H, s), 9.31 (1H, s) and 12.46 (1H, br s).

reactant | ethyl-3-[1-tert-butyloxycarbonyl-5-(1,2,4-triazol-1-yl)pyrrolo[2,3-c]pyridin-3-yl]prop-2-enoate | 4.5 mmol, 1.73 g | C(C)OC(C=CC1=CN(C2=CN=C(C=C21)N2N=CN=C2)C(=O)OC(C)(C)C)=O | C19H21N5O4
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Ethyl-3-(5-(1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)prop-2-enoate | 1.05 g, 82% | C(C)OC(C=CC1=CNC2=CN=C(C=C21)N2N=CN=C2)=O | C14H13N5O2
